US09085583B2
A solution of (R)-2-chloro-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide (70 mg, 0.15 mmol) in morpholine (1.0 mL) was stirred at 150° C. for 30 minutes under microwave (pressure: 10.5 bar, equipment power: 150 W). The mixture was concentrated in vacuo and purified by column chromatography (silica gel, dichloromethane/methanol=10:1) to afford (R)-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-6-methyl-2-morpholino-7-(1-phenylethyl)-7H-pyrrolo[23-d]pyrimidine-5-carboxamide (55 mg, 70.5%). LRMS (M+H+) m/z: calcd 500.25. found 500. HPLC purity (214 nm): 98.6%. 1H NMR (400 MHz, CD3OD) δ 8.65 (s, 1H), 7.28 (dt, J=11.9, 7.7 Hz, 5H), 6.10 (dd, J=13.7, 6.5 Hz, 2H), 4.51 (s, 2H), 3.78-3.65 (m, 8H), 2.47 (s, 3H), 2.41 (s, 3H), 2.26 (s, 3H), 2.03 (d, J=7.2 Hz, 3H).

reactant | (R)-2-chloro-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-6-methyl-7-(1-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidine-5-carboxamide | 0.15 mmol, 70 mg | ClC=1N=CC2=C(N1)N(C(=C2C(=O)NCC=2C(=NC(=CC2C)C)O)C)[C@H](C)C2=CC=CC=C2 | C24H24ClN5O2
reactant | morpholine | 1.0 mL | N1CCOCC1 | C4H9NO
product | (R)-N-((2-hydroxy-4,6-dimethylpyridin-3-yl)methyl)-6-methyl-2-morpholino-7-(1-phenylethyl)-7H-pyrrolo[23-d]pyrimidine-5-carboxamide | 55 mg, 70.5% | OC1=NC(=CC(=C1CNC(=O)C1=C(N(C=2N=C(N=CC21)N2CCOCC2)[C@H](C)C2=CC=CC=C2)C)C)C | C28H32N6O3
